**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jan  7, 98
* MODEL FORMAT: PSpice
.MODEL mjl3281a npn
+IS=6.5498e-11 BF=139.247 NF=1.00176 VAF=46.776
+IKF=10 ISE=7.75232e-12 NE=3.34341 BR=4.98985
+NR=1.09511 VAR=4.32026 IKR=4.37516 ISC=3.25e-13
+NC=3.96875 RB=11.988 IRB=0.111742 RBM=0.102914
+RE=0.00127227 RC=0.209833 XTB=0.115253 XTI=1.03146
+EG=1.11986 CJE=1e-07 VJE=0.4 MJE=0.450375
+TF=7.04629e-10 XTF=1000 VTF=2.06045 ITF=41.8156
+CJC=5e-10 VJC=0.4 MJC=0.85 XCJC=0.959922
+FC=0.1 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1

.SUBCKT mjd112 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jun 25, 98
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 12.9707
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=0 N=0.5 XTI=0.5
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=6.17138e-12 BF=126.359 NF=1.2 VAF=30
+IKF=0.0515004 ISE=1e-16 NE=1.28806 BR=0.1
+NR=1.5 VAR=128.247 IKR=1e-05 ISC=1e-16
+NC=1 RB=0.1 IRB=0.1 RBM=0.1
+RE=0.322723 RC=1.61361 XTB=0 XTI=4 EG=1.206
+CJE=1.79736e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=4.21628e-11
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=6.17138e-12 BF=126.359 NF=1.2 VAF=30
+IKF=0.0515004 ISE=1e-16 NE=1.28806 BR=0.1
+NR=1.5 VAR=128.247 IKR=1e-05 ISC=1e-16
+NC=1 RB=0.1 IRB=0.1 RBM=0.1
+RE=0.322723 RC=1.61361 XTB=0 XTI=4 EG=1.206
+CJE=1.79736e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS mjd112
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      mje15032 npn bjt      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 29, 97
* MODEL FORMAT: PSpice
.MODEL mje15032 npn
+IS=3.7344e-10 BF=86.8313 NF=1.23974 VAF=31.5491
+IKF=9.1678 ISE=9.2499e-12 NE=3.28127 BR=5.59346
+NR=1.33161 VAR=2.1791 IKR=5.15023 ISC=4e-13
+NC=4 RB=9.54492 IRB=0.1 RBM=0.1
+RE=0.000568481 RC=0.0931741 XTB=0.737036 XTI=1.04983
+EG=1.206 CJE=3.05969e-09 VJE=0.648491 MJE=0.352663
+TF=4.94819e-09 XTF=1.50001 VTF=1.0001 ITF=0.999982
+CJC=3.00108e-10 VJC=0.600021 MJC=0.40991 XCJC=0.8
+FC=0.534651 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      mje15033 pnp bjt      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 30, 97
* MODEL FORMAT: PSpice
.MODEL mje15033 pnp
+IS=7.51228e-10 BF=134.35 NF=1.25737 VAF=12.5778
+IKF=1.88497 ISE=7.74267e-12 NE=3.34528 BR=5.14173
+NR=1.47488 VAR=1.4505 IKR=7.47186 ISC=3.25e-13
+NC=4 RB=4.37743 IRB=0.1 RBM=0.1
+RE=0.000332989 RC=0.381218 XTB=0.223027 XTI=1
+EG=1.05 CJE=3.06005e-09 VJE=0.64838 MJE=0.352991
+TF=4.78203e-09 XTF=1.50001 VTF=1.00006 ITF=0.999988
+CJC=3.00101e-10 VJC=0.600019 MJC=0.409916 XCJC=0.8
+FC=0.534975 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
###############################################################################

#                                                                             #

#                                                                             #

#                                                                             #

#        #############################################################        #

#        #                                                           #        #

#        #                                                           #        #

#        #               This model was developed by                 #        #

#        #                      Analogy, Inc.                        #        #

#        #                    9205 SW Gemini Dr.                     #        #

#        #                   Beaverton, OR  97005                    #        #

#        #               Copyright 1994 Analogy, Inc.                #        #

#        #                  All Rights Reserved                      #        #

#        #                                                           #        #

#        #    The content of this model is subject to change         #        #

#        #    without notice and may not be modified or altered      #        #

#        #    without permission from Motorola, Inc.  This model     #        #

#        #    has been carefully checked and is believed to be       #        #

#        #    accurate, however neither Analogy nor Motorola         #        #

#        #    assume liability for the use of this model or the      #        #

#        #    results obtained from using it.                        #        #

#        #                                                           #        #

#        #    For more information regarding modeling services,      #        #

#        #    model libraries or simulation products, please         #        #

#        #    call Analogy, Inc. (503) 626-9700.                     #        #

#        #                                                           #        #

#        #############################################################        #

#                                                                             #

#                                                                             #

#                                                                             #

###############################################################################

** MJE18204 Motorola NPN BJT 07/11/94

** pdmax= 75W icmax= 10A vcemax= 600V vebmax= 10V case= to-220

** betamax= 8 betaic= 2A betavc=1V 

** ftmin= 13MHz ftic= .5A ftvc=10V

** vcesatmax=1.25V vcesatic= 2A vcesatib= .4A

** spice 2g6

.model MJE18204 npn

+ is= 3.04e-13

+ bf= 29.61

+ nf= 0.998

+ vaf= 2353

+ ikf= 0.755

+ ise= 6.938e-12

+ ne= 1.794

+ br= 3.24

+ nr= 1.007

+ var= 2965

+ ikr= 0.221

+ isc= 4.122e-09

+ nc= 1.739

+ rb= 8.29

+ irb= 0.0002927

+ rbm= 0.0885

+ re= 0.04106

+ rc= 0.05501

+ xtb= 0.77

+ eg= 1.11

+ xti= 5.219

+ cje= 1.77e-09

+ vje= 0.647

+ mje= 0.3257

+ tf = 9.5e-09

+ xtf= 9

+ vtf= 0.135

+ itf= 0.12

+ ptf= 1.4

+ cjc= 1.682e-10

+ vjc= 0.5183

+ mjc= 0.4561

+ xcjc= 1

+ tr = 2.5e-06

+ cjs= 0

+ vjs= 0.75

+ mjs= 0

+ fc = 0.92

**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jan  7, 98
* MODEL FORMAT: PSpice
.MODEL mjl1302a pnp
+IS=5.35257e-14 BF=10000 NF=0.85 VAF=29.806
+IKF=1 ISE=6.75503e-13 NE=1.13462 BR=0.1
+NR=0.75 VAR=298.06 IKR=10 ISC=1e-16
+NC=3.31217 RB=1.9617 IRB=0.1 RBM=1.9617
+RE=0.0001 RC=0.185509 XTB=0.1 XTI=1
+EG=1.05 CJE=1e-07 VJE=0.4 MJE=0.491105
+TF=6.44974e-10 XTF=1000 VTF=2.05556 ITF=279.371
+CJC=5e-10 VJC=0.400004 MJC=0.23 XCJC=1
+FC=0.1 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      mjl21193  npn  bjt        *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 29, 97
* MODEL FORMAT: PSpice
.MODEL mjl21193 pnp
+IS=2.30346e-11 BF=69.3372 NF=0.993515 VAF=58.7322
+IKF=4.47546 ISE=7.74993e-12 NE=3.34375 BR=4.94313
+NR=1.14498 VAR=3.3937 IKR=6.72596 ISC=3.25e-13
+NC=4 RB=5.82696 IRB=1.11836 RBM=1.06425
+RE=0.000664793 RC=0.0604505 XTB=1.00207 XTI=1.0259
+EG=1.10103 CJE=9.03315e-08 VJE=0.757914 MJE=0.530058
+TF=1e-08 XTF=3.18625 VTF=14.2809 ITF=2.73109
+CJC=1.44806e-09 VJC=0.4 MJC=0.35533 XCJC=0.1
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      mjl21194  npn  bjt   *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 29, 97
* MODEL FORMAT: PSpice
.MODEL mjl21194 npn
+IS=5.47293e-11 BF=41.975 NF=1.09031 VAF=34.2662
+IKF=9.80375 ISE=8.29283e-12 NE=3.34198 BR=2.55513
+NR=1.18905 VAR=3.07754 IKR=10 ISC=6.74104e-13
+NC=3.80328 RB=3.47951 IRB=0.1 RBM=0.1
+RE=0.000192264 RC=0.0350697 XTB=1.60274 XTI=1.19488
+EG=1.206 CJE=6.77437e-08 VJE=0.797955 MJE=0.463082
+TF=1e-08 XTF=4.96962 VTF=19630.7 ITF=4.65938
+CJC=4.49735e-10 VJC=0.95 MJC=0.321786 XCJC=0.1
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Mar 24, 98
* MODEL FORMAT: PSpice
.MODEL mmdj3p03 pnp
+IS=3.316e-11 BF=400.212 NF=1.14819 VAF=26.632
+IKF=5.66333 ISE=7.74837e-12 NE=3.34404 BR=4.3446
+NR=1.19617 VAR=2.5202 IKR=4.46362 ISC=2.5e-13
+NC=4 RB=9.05473 IRB=0.1 RBM=0.1
+RE=0.000664561 RC=0.133658 XTB=0.393698 XTI=1
+EG=1.05 CJE=2.47161e-09 VJE=0.472448 MJE=0.425946
+TF=5.90089e-10 XTF=15.9663 VTF=15.1707 ITF=9.02361
+CJC=3.44025e-10 VJC=0.4 MJC=0.375416 XCJC=0.800001
+FC=0.853142 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1

**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 27, 98
* MODEL FORMAT: PSpice
.MODEL mmjt9410 npn
+IS=2.35983e-11 BF=213.703 NF=1.10636 VAF=28.137
+IKF=9.99997 ISE=6.24999e-12 NE=3.40625 BR=5.53657
+NR=1.14744 VAR=7.69331 IKR=9.92901 ISC=2.5e-13
+NC=4 RB=7.90901 IRB=0.1 RBM=0.1
+RE=0.000523998 RC=0.0836482 XTB=0.100794 XTI=1.06462
+EG=1.19548 CJE=5.87892e-09 VJE=0.614933 MJE=0.85
+TF=1.17165e-09 XTF=1000 VTF=352.971 ITF=270.597
+CJC=2.37425e-10 VJC=0.95 MJC=0.415065 XCJC=0.791024
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1

**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      TIP31C   NPN, bjt     *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 29, 97
* MODEL FORMAT: PSpice
.MODEL tip31c npn
+IS=9.19839e-10 BF=250.29 NF=1.31842 VAF=10
+IKF=1 ISE=4.03997e-12 NE=1.58322 BR=8.46109
+NR=1.31301 VAR=3.24511 IKR=10 ISC=6.24955e-13
+NC=3.90627 RB=5.04225 IRB=0.1 RBM=0.1
+RE=0.032857 RC=0.164285 XTB=0.1 XTI=1
+EG=1.05 CJE=3.22574e-10 VJE=0.606555 MJE=0.541469
+TF=1e-08 XTF=7.90432 VTF=10.4888 ITF=0.00100001
+CJC=3.09833e-10 VJC=0.735177 MJC=0.469501 XCJC=0.799758
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=2.59407e-07 PTF=0 KF=0 AF=1
